US07432275B2
Reflux a mixture of 2-chloromethyl-3-[4-hydroxy-7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-2-yl]-propionic acid ethyl ester (600 mg, 1.6 mmol), POCl3 (445 μl, 4.77 mmol), and 2,6-lutidine (596 μl, 4.77 mmol) in CHCl3 (20 ml) for 60 hours. Cool the mixture and concentrate under reduced pressure. Partition the residue between EtOAc and saturated NaHCO3 solution. Wash the EtOAc portion with additional NaHCO3 and then dry (Na2SO4) and concentrate under reduced pressure. Filter the brown residue through 2 inches of silica gel (1:1 EtOAc/hexanes eluent) and concentrate under reduced pressure to give 3-[4-chloro-7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-2-yl]-propionic acid ethyl ester.

reactant | 2-chloromethyl-3-[4-hydroxy-7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-2-yl]-propionic acid ethyl ester | 1.6 mmol, 600 mg | C(C)OC(C(CC1=NC2=CC(=CC=C2C(=N1)O)C1=NC=CC=C1C(F)(F)F)CCl)=O | C20H17ClF3N3O3
reactant | POCl3 | 4.77 mmol, 445 μl | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 2,6-lutidine | 4.77 mmol, 596 μl | N1=C(C=CC=C1C)C | C7H9N
solvent | CHCl3 | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[4-chloro-7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-2-yl]-propionic acid ethyl ester | C(C)OC(CCC1=NC2=CC(=CC=C2C(=N1)Cl)C1=NC=CC=C1C(F)(F)F)=O | C19H15ClF3N3O2
